US06331289B1
a) Synthesis of Z-Ala-polymer (3-O-(carbobenzyloxy-L-alanyl)-polymer)
The polymer is prepared from ethylidene bis(16-hydroxyhexadecanoate) and adipoyl chloride as described in WO-A-9607434, and a polymer fraction with molecular weight 10000 is purified using gel permeation chromatography (GPC). 10 g of the material (corresponding to 1 mmol OH groups), Z-alanine (5 mmol) and dimethylaminopyridine (4 mmol) are dissolved in dry dimethylformamide/tetrahydrofuran and dicyclohexylcarbodiimide is then added. The reaction mixture is stirred at ambient temperature overnight. Dicyclohexylurea is filtered off and the solvent is removed using rotary evaporation. The product is purified by chromatography, fractions containing the title compound are combined and the solvent is removed using rotary evaporation. The structure of the product is confirmed by NMR.

reactant | ethylidene bis(16-hydroxyhexadecanoate) | OCCCCCCCCCCCCCCCC(=O)OC(C)OC(CCCCCCCCCCCCCCCO)=O | C34H66O6
reactant | adipoyl chloride | C(CCCCC(=O)Cl)(=O)Cl | C6H8Cl2O2
reactant | dimethylaminopyridine | 4 mmol | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | dimethylformamide tetrahydrofuran | CN(C=O)C.O1CCCC1
product | Z-Ala | N([C@@H](C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C11H13NO4
